US04062798
4.46 g. of 2-(4-n-pentylphenyl)-3-ethoxy-acrolein, 3.63 g. of the 4-amidinobenzoic acid amide hydrochloride described above and 0.0254 mol of sodium methylate (obtained by dissolving 0.584 g. of sodium metal in methanol) are suspended in 250 ml. of methanol and stirred overnight at room temperature under an atmosphere of nitrogen. The yellow suspension is then filtered and the residue is washed with a little ethanol and suspended in 1.4 liters of ether for further purification. The suspension is washed with water and then filtered again. Sparingly soluble 4-[5-(4-n-pentylphenyl)-2-pyrimidinyl]benzoic acid amide is obtained.

reactant | 2-(4-n-pentylphenyl)-3-ethoxy-acrolein | C(CCCC)C1=CC=C(C=C1)C(C=O)=COCC | C16H22O2
reactant | 4-amidinobenzoic acid amide hydrochloride | Cl.C(N)(=N)C1=CC=C(C(=O)N)C=C1
reactant | sodium methylate | 0.0254 mol, 0.584 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-[5-(4-n-pentylphenyl)-2-pyrimidinyl]benzoic acid amide | C(CCCC)C1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C(=O)N)C=C1 | C22H23N3O
